US05731335
1-(2,4-Dimethyl-5-oxazolyl)-1-(3-thienyl)ethanol
Starting with 3-bromothiophene and 5-acetyl-2,4-dimethyloxazole and following the general method of Example 4 the title compound was prepared. M.p. 132°-133° C.

reactant | 3-bromothiophene | BrC1=CSC=C1 | C4H3BrS
reactant | 5-acetyl-2,4-dimethyloxazole | C(C)(=O)C1=C(N=C(O1)C)C | C7H9NO2
product | 1-(2,4-Dimethyl-5-oxazolyl)-1-(3-thienyl)ethanol | CC=1OC(=C(N1)C)C(C)(O)C1=CSC=C1 | C11H13NO2S
